US04894369
1-[(2β,3α,5β,16α,17β)-3,17-bis(acetyloxy)-2-(4-morpholinyl)-androstan-16-yl]-1-(cyclopropylmethyl)pyrrolidinium bromide
Cyclopropylmethyl bromide (1.0 ml) was added to a solution of (2β,3α,5α,16β,17β)-2-(4-morpholinyl)-16-(1-pyrrolidinyl)-androstane-3,17-diol diacetate (2.0 g) in acetonitrile (20 ml) and the solution was heated under reflux for 14 d. Evaporation of the reaction mixture to dryness under reduced pressure gave a pale brown solid (2.30 g), which was crystallised from dichloro-methanediethyl ether to remove most of the unreacted starting material. Further purification, by chromatography on alumina as described above, gave material, which was dissolved in dichloro-methane and precipitated from the solution with diethyl ether to give 1-[(2β,3α,5α,16β,17β)-3,17-bis(acetyloxy)-2-(4-morpholinyl)-androstan-16-yl]-1-(cyclopropylmethyl) pyrrolidinium bromide, m.p. decomposes above 175° C.; [α]D20 =-11.6° (c 0.66 in CHCl3).

reactant | Cyclopropylmethyl bromide | 1.0 ml | C1(CC1)CBr | C4H7Br
reactant | (2β,3α,5α,16β,17β)-2-(4-morpholinyl)-16-(1-pyrrolidinyl)-androstane-3,17-diol diacetate | 2.0 g | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCOCC1)C)OC(C)=O)N1CCCC1 | C31H50N2O5
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-[(2β,3α,5β,16α,17β)-3,17-bis(acetyloxy)-2-(4-morpholinyl)-androstan-16-yl]-1-(cyclopropylmethyl)pyrrolidinium bromide | 2.30 g | [Br-].C(C)(=O)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4C[C@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCOCC1)C)OC(C)=O)[N+]1(CCCC1)CC1CC1 | InChI=1S/C35H57N2O5.BrH/c1-23(38)41-32-19-26-9-10-27-28(35(26,4)21-30(32)36-13-17-40-18-14-36)11-12-34(3)29(27)20-31(33(34)42-24(2)39)37(15-5-6-16-37)22-25-7-8-25;/h25-33H,5-22H2,1-4H3;1H/q+1;/p-1/t26-,27-,28+,29+,30+,31-,32+,33+,34+,35+;/m1./s1
